US07135475B2
6-Amino-1-butyl-1H-pyrimidine-2,4-dione (1.72 g, 9.4 mmol), 1,1,1,3,3,3-hexamethyldisilazane (30 mL), and ammonium sulfate (0.03 g, 0.2 mmol) were heated under nitrogen at reflux for 24 h. After cooling to room temperature the 1,1,1,3,3,3-hexamethyldisilazane was removed under vacuum to give a light brown oil to which was added benzylbromide (1.1 mL, 1.58 g, 9.2 mmol) and a crystal of iodine. The resulting mixture was heated in a 110° C. oil bath for 1 h. The mixture was cooled in as ice bath while methanol was cautiously added. After concentration and trituration with chloroform and cooling to −20° C. freezer, the solid product was isolated by filtration. This material was passed through a pad of silica gel 60 (35–70 mesh) eluted with 9:1 chloroform/methanol to give 1.0 g of pure 6-amino-3-benzyl-1-butyl-1H-pyrimidine-2,4-dione. LRMS, m/z(M+H)=274.4.

reactant | 6-Amino-1-butyl-1H-pyrimidine-2,4-dione | 9.4 mmol, 1.72 g | NC1=CC(NC(N1CCCC)=O)=O | C8H13N3O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 30 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | benzylbromide | 9.2 mmol, 1.1 mL, 1.58 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | iodine | II | I2
catalyst | ammonium sulfate | 0.2 mmol, 0.03 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | methanol | CO | CH4O
product | 6-amino-3-benzyl-1-butyl-1H-pyrimidine-2,4-dione | 1.0 g | NC1=CC(N(C(N1CCCC)=O)CC1=CC=CC=C1)=O | C15H19N3O2
